US06277858B1
5-Chloro-2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide
In a sulfonation flask 0.85 g 2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide are added with stirring to 10 ml absolute pyridine. The internal temperature is then raised to 60° C. and 0.5 g of N-chlorosuccinimide (NCS) are added in two portions. After stirring for 1 hour at 60° C., the pyridine is removed in a water jet vacuum. The residue is taken up in ethylacetate and the organic phase is washed twice with water. After drylng of the organic phase, the solvent is removed in a water jet vacuum and the raw material purified by column chromatography over silica gel (eluant:hexane/ethylacetate=3:1). Yield: 0.6 g 5-Chloro-2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide in the form of brownish crystalls; m.p. 110-112° C.

reactant | 2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide | 0.85 g | C(CC)NC(=O)C1=C(SC=C1)N=C(OC)CCCC | C14H22N2O2S
reactant | N-chlorosuccinimide | 0.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-2-(1-n-butyl-1-methoxymethyleneamino)thiophene-3-carboxylic-acid propylamide | C(CC)NC(=O)C1=C(SC(=C1)Cl)N=C(OC)CCCC | C14H21ClN2O2S
